US08859774B2
A solution of pyrrolidine (0.065 mL, 0.783 mmol) and (R)-(1-(4-fluorophenyl)-6-((4-fluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone (183 mg, 0.261 mmol) in N-methylpyrrolidine (2 mL) was stirred in a sealed vial at 100° C. for 22 hours. The cooled reaction mixture was then purified directly by preparative HPLC (Waters, Acidic (0.1% Formic acid), Waters X-Select Prep-C18, 5 μm, 19×50 mm column, 5-95% acetonitrile in water) to afford (R)-(1-(4-fluorophenyl)-6-((4-(pyrrolidin-1-yl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone as an off-white solid (52 mg). LCMS (Method F, ES-API): RT 2.78 min, m+H=584.3; 1H NMR (400 MHz, CDCl3): δ 8.63-8.62 (1H, m), 7.89 (1H, dt, J=8.0, 1.2 Hz), 7.81 (1H, td, J=7.5, 1.8 Hz), 7.51-7.47 (2H, m), 7.46-7.41 (3H, m), 7.28 (1H, s), 7.18-7.12 (2H, m), 6.48-6.45 (3H, m), 5.41 (1H, dd, J=12.2, 2.1 Hz), 4.31 (1H, d, J=16.9 Hz), 3.80-3.76 (1H, m), 3.33-3.30 (4H, m), 2.88 (1H, d, J=16.9 Hz), 2.85-2.76 (1H, m), 2.61 (1H, d, J=12.1 Hz), 2.45-2.35 (2H, m), 2.07-2.01 (4H, m).

reactant | pyrrolidine | 0.783 mmol, 0.065 mL | N1CCCC1 | C4H9N
reactant | (R)-(1-(4-fluorophenyl)-6-((4-fluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 0.261 mmol, 183 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C2=NC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)F | C28H22F2N4O3S
solvent | N-methylpyrrolidine | 2 mL | CN1CCCC1 | C5H11N
product | (R)-(1-(4-fluorophenyl)-6-((4-(pyrrolidin-1-yl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 52 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C2=NC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)N2CCCC2 | C32H30FN5O3S
